********************
* Version 1.1.0a
.SUBCKT MMBR951 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XMBR951
.ENDS
********************
.SUBCKT XMBR951 1 2 3 
CBPAD 2 1 9E-14 
CEPAD 1 3 9E-14 
Q1 1 2 3 DMBR951 
.ENDS
********************
.MODEL DMBR951 NPN 
+ IS = 8.633E-16 
+ BF = 105 
+ NF = 0.9909 
+ VAF = 26 
+ IKF = 100 
+ ISE = 1E-15 
+ NE = 1.356 
+ BR = 60 
+ NR = 0.9983 
+ VAR = 5 
+ IKR = 0.022 
+ ISC = 1.673E-16 
+ NC = 1.076 
+ RB = 5 
+ IRB = 8E-05 
+ RBM = 5 
+ RE = 0.33 
+ RC = 10 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 2.9E-12 
+ VJE = 1.061 
+ MJE = 0.5089 
+ CJC = 7.3E-13 
+ VJC = 0.25 
+ MJC = 0.27 
+ XCJC = 0.5 
+ TF = 9E-12 
+ XTF = 500 
+ VTF = 3 
+ ITF = 1.1 
+ PTF = 85 
+ TR = 1E-09 
+ FC = 0.5 

